US06573388B1
To a magnetically stirred solution of N-t-butyloxycarbonyl-2(R)-(1(S)-t-butyldimetylsilyloxy-2-chloroethyl)aziridine (36.0 mg, 0.107 mmol) in toluene was added copper bromide dimethyl sulfide complex (11.0 mg, 0.054 mmol) at rt under N2. The reaction mixture was cooled to −78° C. then treated with a 2 M solution of PhMgCl in THF (0.54 mL, 1.072 mmol). The resulting mixture was warmed to −20° C. and stirred overnight. The reaction mixture was treated with sat NH4Cl (4 mL) and extracted with EtOAc(5 mL×3). The combined organic layers were washed with brine (50 mL), dried over anhydrous magnesium sulfate, filtered, concentrated and column-chromatographed (3% EtAc in n-Hex) to provide 2(S)-t-butyldimetylsilyloxy-3(R)-(t-butyloxycarbonyl)amino-1-chloro-4-phenylbutane (33.5 mg) as a colorless oil.

reactant | N-t-butyloxycarbonyl-2(R)-(1(S)-t-butyldimetylsilyloxy-2-chloroethyl)aziridine | 0.107 mmol, 36.0 mg | C(C)(C)(C)OC(=O)N1[C@H](C1)[C@@H](CCl)O[Si](C)(C)C(C)(C)C | C15H30ClNO3Si
reactant | PhMgCl | C1(=CC=CC=C1)[Mg]Cl
reactant | THF | 1.072 mmol, 0.54 mL | C1CCOC1 | C4H8O
reactant | NH4Cl | 4 mL | [NH4+].[Cl-]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2(S)-t-butyldimetylsilyloxy-3(R)-(t-butyloxycarbonyl)amino-1-chloro-4-phenylbutane | 33.5 mg, Yield: 75% | [Si](C)(C)(C(C)(C)C)O[C@H](CCl)[C@@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C | C21H36ClNO3Si
